US07696223B2
a) 1,2-Dimethyl-1H-indole-3-carboxylic acid ethyl ester
To an ice-water bath cooled solution of 2-methyl-1H-indole-3-carboxylic acid ethyl ester (5.197 g, prepared according to Suzuki et al. (1984) Synthesis (Stuttgart) 7:616-617), MeI (2.07 mL) in DMF (25 mL) was added NaH (1.33 g, 60% purity in mineral oil) under nitrogen gas stream. The reaction was stirred for 10 min at 0° C. and 20 min at room temperature and then quenched with diluted HCl solution, diluted with ice/water to a volume of ˜200 mL; the mixture was cooled with ice/water bath and the solids were collected with filtration, washed with water, and dried under high vacuum to give the desired crude product (5.87 g) as loose brown to yellow solid. 1H NMR (200 MHz, CDCl3): δ (ppm)=8.14-8.0 (m, 1H), 7.3-7.1 (m, 3H), 4.38 (q, 2H, J=7.1 Hz), 3.69 (s, 3H), 2.77 (s, 3H), 1.45 (t, 3H, J=7.1 Hz).

reactant | 2-methyl-1H-indole-3-carboxylic acid ethyl ester | 5.197 g | C(C)OC(=O)C1=C(NC2=CC=CC=C12)C | C12H13NO2
reactant | MeI | 2.07 mL | CI | CH3I
reactant | NaH | 1.33 g | [H-].[Na+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 1,2-Dimethyl-1H-indole-3-carboxylic acid ethyl ester | 5.87 g | C(C)OC(=O)C1=C(N(C2=CC=CC=C12)C)C | C13H15NO2
